US08492559B2
Stage 1: Ethyl 3-chloro-1H-indole-2-carboxylate
Ethyl 1H-indole-2-carboxylate (26.45 mmol, 1.0 equiv.) was dissolved in CCl4 (26 ml); NCS (29.10 mmol, 1.1 equiv.) was added and the mixture was heated for 16 h at boiling temperature. The resulting solid was filtered out, and the filtrate was washed with water (2×50 ml) and sat. NaCl solution (50 ml), dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography (10% ethyl acetate in hexane). Yield: 73%

reactant | Ethyl 1H-indole-2-carboxylate | 26.45 mmol, 1.0 equiv. | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
reactant | NCS | 29.10 mmol, 1.1 equiv. | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CCl4 | 26 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 3-chloro-1H-indole-2-carboxylate | Yield: 73% | ClC1=C(NC2=CC=CC=C12)C(=O)OCC | C11H10ClNO2
